US04230707
Ethyl 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate
A mixture of ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate (2.0 g., 0.0072 mol) and m-chloroperbenzoic acid (1.47 g., 0.0072 mol) in chloroform (75 ml) is stirred at room temperature overnight. The solvent is evaporated at reduced pressure to give a syrup, which crystallizes from ethanol. Recrystallization from ethanol, silica gel chromatography and a further recrystallization from ethanol gives the product as yellow crystals (mp 175° C.).

reactant | ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate | 0.0072 mol, 2.0 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)OCC)CSC2 | C13H12N2O3S
reactant | m-chloroperbenzoic acid | 0.0072 mol, 1.47 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate | O=C1C=2C(N=C3N1C=C(C=C3)C(=O)OCC)=CSC2 | C13H10N2O3S
